US05498609
To a suspension of 7-chloro-5-methoxycarbonylmethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) in ethanol (5 ml) is added 5N aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 4 hours. Water is added to the reaction mixture, and the mixture is made weak acidic by adding thereto diluted hydrochloric acid, and extracted with dichloromethane. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is crystallized from diethyl ether to give 7-chloro-5-carboxymethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.38 g) as white powder.

reactant | 7-chloro-5-methoxycarbonylmethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCC(=O)OC)C1 | C27H26ClN3O5
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-chloro-5-carboxymethoxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.38 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)OCC(=O)O)C1 | C26H24ClN3O5
